US08022062B2
2-Methanesulfonyloxymethyl-5-(3-methyl-butyryl)-pyridine:
Dissolve 2-hydroxymethyl-5-(3-methyl-butyryl)-pyridine (190 mg, 0.98 mmol) in dichloromethane (10 mL). Cool to 0° C. and add triethylamine (0.151 mL, 1.08 mmol) and methanesulfonyl chloride (0.083 mL, 1.08 mmol). Allow the mixture to warm to room temperature and stir for 2 h. Dilute the reaction mixture with dichloromethane and wash with saturated aqueous NaHCO3. Dry the organic phase over Na2SO4, filter and concentrate in vacuo to provide the title compound as oil (263 mg, 98%).

reactant | 2-hydroxymethyl-5-(3-methyl-butyryl)-pyridine | 0.98 mmol, 190 mg | OCC1=NC=C(C=C1)C(CC(C)C)=O | C11H15NO2
reactant | triethylamine | 1.08 mmol, 0.151 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.08 mmol, 0.083 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2-Methanesulfonyloxymethyl-5-(3-methyl-butyryl)-pyridine | 263 mg, 98% | CS(=O)(=O)OCC1=NC=C(C=C1)C(CC(C)C)=O | C12H17NO4S
